US06521643B1
To a suspension of 2-bromo-4-methylpyridine (1.60 g), 4-methoxyphenylboronic acid (1.84g) and tetrakis(triphenylphosphine)-palladium (537 mg) in 1,2-dimethoxyethane (40 ml) was added 2M aqueous solution of sodium carbonate (12.1 ml). The mixture was stirred at 80° C. for 24 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 75 g, 20% ethyl acetate in n-hexane) to give 4-(4-methylpyridin-2-yl)anisole (1.59 g).

reactant | 2-bromo-4-methylpyridine | 1.60 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | 4-methoxyphenylboronic acid | 1.84g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 12.1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 537 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-methylpyridin-2-yl)anisole | 1.59 g | CC1=CC(=NC=C1)C1=CC=C(C=C1)OC | C13H13NO
